US06573273B1
Using the general method of Example 145, 1-(8-aminooctyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine (1.2 g, 3.26 mmol) was reacted with phenyl isocyanate to provide 1.59 g of N-[8-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)octyl]-N′-phenylurea as an off white powder, m.p. 153-155° C. Analysis: Calculated for C29H38N6O.0.20 H2O: %C, 71.05; %H, 7.89; %N, 17.14; Found: %C, 70.86; %H, 7.97; %N, 16.87. 1H NMR (300 MHz, DMSO-d6) δ 8.34 (s, 1H), 8.01 (d, J=7.8 Hz, 1H), 7.61 (dd, J=8.3, 1.0 Hz, 1H), 7.43-7.36 (m, 3H), 7.26-7.17 (m, 3H), 6.87 (t, J=7.3 Hz, 1H), 6.49 (s, 2H), 6.08 (m, 1H), 4.49 (m, 2H), 3.05 (m, 2H), 2.91 (m, 2H), 1.80 (m, 4H), 1.43-1.29 (m, 12H), 0.95 (t, J=7.3 Hz, 3H); 13C NMR (125 MHz, DMSO-d6) 155.5, 153.4, 152.0, 144.9, 141.0, 132.6, 128.9, 126.7, 126.62, 126.57, 121.5, 121.2, 120.2, 117.9, 115.1, 45.1, 39.3, 30.1, 30.0, 29.0, 28.9, 26.6, 26.5, 26.2, 22.3, 14.1; MS m/z 487 (M+1)

reactant | 1-(8-aminooctyl)-2-butyl-1H-imidazo[4,5-c]quinolin-4-amine | 3.26 mmol, 1.2 g | NCCCCCCCCN1C(=NC=2C(=NC=3C=CC=CC3C21)N)CCCC | C22H33N5
reactant | phenyl isocyanate | C1(=CC=CC=C1)N=C=O | C7H5NO
product | N-[8-(4-amino-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)octyl]-N′-phenylurea | 1.59 g | NC1=NC=2C=CC=CC2C2=C1N=C(N2CCCCCCCCNC(=O)NC2=CC=CC=C2)CCCC | C29H38N6O
